US04061761
a. 4-Chloro-3-cyclohexylsulfamoylbenzoylchloride
30 g of 4-chloro-3-cyclohexylsulfamoylbenzoic acid were reacted as prescribed in Example 74a) with thionyl chloride and worked up analogously after HCl had finished to develop. Colorless crystals, melting point 119° C (from diisopropyl ether).

reactant | 4-chloro-3-cyclohexylsulfamoylbenzoic acid | 30 g | ClC1=C(C=C(C(=O)O)C=C1)S(NC1CCCCC1)(=O)=O | C13H16ClNO4S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | HCl | Cl | ClH
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 4-Chloro-3-cyclohexylsulfamoylbenzoylchloride | ClC1=C(C=C(C(=O)Cl)C=C1)S(NC1CCCCC1)(=O)=O | C13H15Cl2NO3S
